US07214673B2
2-Isopropyl-5H-dibenzo[b,e][1,4]diazepin-11-ylamine hydrochloride
Combine 5-isopropyl-2-(2-nitro-phenylamino)-benzonitrile (4.54 g, 16.1 mmol) and tin (II) chloride (10.92 g, 48.4 mmol) in 65.0 mL of 5N HCl solution and 65.0 mL of ethanol. Heat this mixture at 86° C. for 18 hours. Chilling the mixture precipitates the title compound as 4.22 g of a yellow solid: mp>250° C.; mass spectrum (ion spray): m/z=252 (M+1).

reactant | 5-isopropyl-2-(2-nitro-phenylamino)-benzonitrile | 16.1 mmol, 4.54 g | C(C)(C)C=1C=CC(=C(C#N)C1)NC1=C(C=CC=C1)[N+](=O)[O-] | C16H15N3O2
reactant | tin (II) chloride | 48.4 mmol, 10.92 g | [Sn](Cl)Cl
solvent | HCl | 5N, 65.0 mL | Cl | ClH
solvent | ethanol | 65.0 mL | C(C)O | C2H6O
product | 2-Isopropyl-5H-dibenzo[b,e][1,4]diazepin-11-ylamine hydrochloride | Cl.C(C)(C)C1=CC2=C(NC3=C(N=C2N)C=CC=C3)C=C1 | InChI=1S/C16H17N3.ClH/c1-10(2)11-7-8-13-12(9-11)16(17)19-15-6-4-3-5-14(15)18-13;/h3-10,18H,1-2H3,(H2,17,19);1H
